US07482462B2
Coupling of 3,3-dimethyl-butyric acid 4-(carboxy-fluoro-methylene)-adamantan-1-yl ester with 4-bromo-2,5-dichloro-thiophene-3-sulfonamide and isolation is performed analogously to the method as described in Example K c. 3,3-Dimethyl-butyric acid 4-[2-(4-bromo-2,5-dichloro-thiophene-3-sulfonylamino)-1-fluoro-2-oxo-ethylidene]-adamantan-1-yl ester is obtained.

reactant | 3,3-dimethyl-butyric acid 4-(carboxy-fluoro-methylene)-adamantan-1-yl ester | C(=O)(O)C(=C1C2CC3(CC(CC1C3)C2)OC(CC(C)(C)C)=O)F | C18H25FO4
reactant | 4-bromo-2,5-dichloro-thiophene-3-sulfonamide | BrC=1C(=C(SC1Cl)Cl)S(=O)(=O)N | C4H2BrCl2NO2S2
product | 3,3-Dimethyl-butyric acid 4-[2-(4-bromo-2,5-dichloro-thiophene-3-sulfonylamino)-1-fluoro-2-oxo-ethylidene]-adamantan-1-yl ester | BrC=1C(=C(SC1Cl)Cl)S(=O)(=O)NC(C(F)=C1C2CC3(CC(CC1C3)C2)OC(CC(C)(C)C)=O)=O | C22H25BrCl2FNO5S2
